US06630461B2
48.1 2-(R.S)-(4-nitrophenyl)-4-(R)-thiazolidine carboxylic acid
3 g (17.08 mmoles) of L-Cysteine hydrochloride and 2.18 g (22.2 mmoles) of sodium acetate are dissolved in 75 ml of water. The solution is agitated vigorously during the addition by portions, of 3.10 g (20.5 mmoles) of 4-nitrobenzaldehyde in solution in 80 ml of 95% ethanol. A white precipitate rapidly appears in this pale yellow solution which forms abundantly. Agitation is maintained for one hour, the reaction mixture is then cooled down to 0° C. and filtered. The precipitate is successively rinsed with 200 ml of water, 100 ml of cold ethanol and 100 ml of ethyl ether. After drying, a white powder is obtained with a yield of 87%. Melting point: 120-121° C.

reactant | L-Cysteine hydrochloride | 17.08 mmoles, 3 g | Cl.N[C@@H](CS)C(=O)O
reactant | sodium acetate | 22.2 mmoles, 2.18 g | C(C)(=O)[O-].[Na+]
reactant | 4-nitrobenzaldehyde | 20.5 mmoles, 3.10 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | water | 75 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(R.S)-(4-nitrophenyl)-4-(R)-thiazolidine carboxylic acid | yield of 87% | [N+](=O)([O-])C1=CC=C(C=C1)C1SC[C@H](N1)C(=O)O | C10H10N2O4S
